US06747023B1
2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-5-ethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride
In methylene chloride (3.0 ml), 2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride (149 mg) was suspended, followed by the addition of methanol (0.6 ml), triethylamine (82.5 μl), acetic acid (51.0 μl, 891 μmol), acetaldehyde (19.5 μl) and sodium triacetoxyborohydride (74.0 mg) at room temperature. The resulting mixture was stirred for 15 minutes. To the reaction mixture, a saturated aqueous solution (30 ml) of sodium bicarbonate and methylene chloride (15 ml) were added to separate the water layer. The resulting water layer was extracted with methylene chloride (2×10 ml). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by chromatography on a silica gel column (30 g of silica gel, methylene chloride:methanol=10:1). The resulting white solid was dissolved in a 1N aqueous hydrochloride in ethanol (10 ml). After concentration of the resulting solution, water (30 ml) was added to the concentrate and the mixture was concentrated again, whereby the title compound (81.7 mg) was obtained as a white solid.

reactant | 2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride | 149 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CNCCC2N1
reactant | acetic acid | 891 μmol, 51.0 μl | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 19.5 μl | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 74.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 82.5 μl | C(C)N(CC)CC | C6H15N
solvent | methanol | 0.6 ml | CO | CH4O
product | 2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-5-ethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride | 81.7 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CN(CCC2N1)CC | InChI=1S/C24H27ClN4O3S.ClH/c1-2-27-8-7-22-19(16-27)15-23(26-22)24(30)28-9-11-29(12-10-28)33(31,32)21-6-4-17-13-20(25)5-3-18(17)14-21;/h3-6,13-15,26H,2,7-12,16H2,1H3;1H
